US06617357B2
A suspension of 2-methyl-5-nitro(N,N-dimethyl)benzenesulfonamide (2.0 g, 8.20 mmol) and Pd/C (0.30 g) in ethanol (40 mL) was stirred under an H2 balloon for 16 h. The suspension was filtered through Celite and washed with methylene chloride. The filtrate was concentrated to provide 3-amino-2-methyl(N,N-dimethyl) benzenesulfonamide (1.72 g, 98%) as a white solid.

reactant | 2-methyl-5-nitro(N,N-dimethyl)benzenesulfonamide | 8.20 mmol, 2.0 g | CC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)N(C)C | C9H12N2O4S
reactant | ethanol | 40 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.30 g | [Pd] | Pd
product | 3-amino-2-methyl(N,N-dimethyl) benzenesulfonamide | 1.72 g, 98% | NC=1C(=C(C=CC1)S(=O)(=O)N(C)C)C | C9H14N2O2S
